US04617314
2-Methyl-5-methylsulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid, 5.0 g, is dissolved in a mixed solvent of 50 ml of dimethylformamide and 50 ml of acetone, 5.7 ml of triethylamine is added and the solution is stirred. Under cooling at 15°-18° C. 2.1 g of ethyl chlorocarbonate is added dropwise for 10 minutes. After stirring at room temperature for 40-45 minutes, 3.0 g of 1-ethyl-2-aminomethylpyrrolidine is added. The reactant is stirred at room temperature for 20 minutes and allowed to stand for 15 hours. Then, excess triethylamine and acetone are distilled off, and the resulting residue is poured into 400 ml of water and extracted with ethyl acetate three times. The ethyl acetate extract layer is washed with water and dried and the ethyl acetate is distilled off under reduced pressure. The residue obtained is dissolved in chloroform and hydrochloric acid gas is blown into the solution. Excess hydrochloric acid gas and chloroform are distilled off under diminished pressure. The resulting residue is crystallized from isopropanol/methanol (3/1) to give crystals of N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-methylsulfamoyl-2,3-dihydrobenzofuran-7-carboxamide hydrochloride, m.p. 202°-205° C.

reactant | 2-Methyl-5-methylsulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid | CC1OC2=C(C1)C=C(C=C2C(=O)O)S(NC)(=O)=O | C11H13NO5S
reactant | ethyl chlorocarbonate | 2.1 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 1-ethyl-2-aminomethylpyrrolidine | 3.0 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | triethylamine | 5.7 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-methylsulfamoyl-2,3-dihydrobenzofuran-7-carboxamide hydrochloride | Cl.C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(NC)(=O)=O | InChI=1S/C18H27N3O4S.ClH/c1-4-21-7-5-6-14(21)11-20-18(22)16-10-15(26(23,24)19-3)9-13-8-12(2)25-17(13)16;/h9-10,12,14,19H,4-8,11H2,1-3H3,(H,20,22);1H
